US07205326B2
To a suspension of 3-(4-fluoro-2-trifluoromethyl-phenyl)-acrylic acid (1.22 g, 5.2 mmol) in THF (10 ml) and N,N-dimethyl formamide (0.2 ml) a solution oxalyl chloride (0.99 g, 7.80 mmol) was added dropwise at 0° C. within 45 min. Stirring was continued at 0–5° C. for 30 min. and 3 h at room temperature thereafter. The resulting solution was cooled to 0–5° C. again and then added within 15 min. to 12 ml of a 25% aqueous ammonia solution. After stirring for 30 min. the precipitated amide was collected, washed with water and dried at 40° C. in vacuo yielding 0.53 g (40%) 3-(4-fluoro-2-trifluoromethyl-phenyl)-acrylamide.

reactant | 3-(4-fluoro-2-trifluoromethyl-phenyl)-acrylic acid | 5.2 mmol, 1.22 g | FC1=CC(=C(C=C1)C=CC(=O)O)C(F)(F)F | C10H6F4O2
reactant | oxalyl chloride | 7.80 mmol, 0.99 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | N,N-dimethyl formamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 3-(4-fluoro-2-trifluoromethyl-phenyl)-acrylamide | 0.53 g, 40% | FC1=CC(=C(C=C1)C=CC(=O)N)C(F)(F)F | C10H7F4NO
